### PR TITLE
feat: some lemmas about pointwise actions of units on filters and uniformities

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Pointwise.lean [hunk 1]
```diff
@@ -1097,4 +1097,23 @@ theorem zero_smul_filter (hg : g.NeBot) : (0 : α) • g = 0 :=
 
 end SMulWithZero
 
+section Cancel
+
+theorem _root_.IsUnit.smul_tendsto_smul_iff [Monoid γ] [MulAction γ β] {m : α → β} {c : γ}
```
Comment (ocfnash) [inline Mathlib/Order/Filter/Pointwise.lean:1102]:
```suggestion
@[to_additive]
theorem _root_.IsUnit.smul_tendsto_smul_iff [Monoid γ] [MulAction γ β] {m : α → β} {c : γ}
```

File: Mathlib/Order/Filter/Pointwise.lean [hunk 2]
```diff
@@ -1097,4 +1097,23 @@ theorem zero_smul_filter (hg : g.NeBot) : (0 : α) • g = 0 :=
...
+    {f : Filter α} {g : Filter β} (hc : IsUnit c) :
+    Tendsto (c • m) f (c • g) ↔ Tendsto m f g := by
+  rcases hc.exists_left_inv with ⟨d, hd⟩
+  refine ⟨fun H ↦ ?_, fun H ↦ tendsto_map.comp H⟩
+  simpa [Function.comp_def, smul_smul, hd] using (tendsto_map (f := (d • ·))).comp H
+
+theorem smul_tendsto_smul_iff [Group γ] [MulAction γ β] {m : α → β} {c : γ} {f : Filter α}
```
Comment (ocfnash) [inline Mathlib/Order/Filter/Pointwise.lean:1109]:
```suggestion
@[to_additive (attr := simp)]
theorem smul_tendsto_smul_iff [Group γ] [MulAction γ β] {m : α → β} {c : γ} {f : Filter α}
```

File: Mathlib/Topology/Algebra/UniformMulAction.lean [hunk 3]
```diff
@@ -153,6 +155,30 @@ theorem uniformContinuous_div_const' {R : Type*} [DivisionRing R] [UniformSpace
 
 end Ring
 
+section Unit
+
+variable {M X}
+
+open scoped Pointwise in
+theorem IsUnit.smul_uniformity [Monoid M] [MulAction M X] [UniformContinuousConstSMul M X] {c : M}
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/UniformMulAction.lean:163]:
```suggestion
@[to_additive]
theorem IsUnit.smul_uniformity [Monoid M] [MulAction M X] [UniformContinuousConstSMul M X] {c : M}
```

File: Mathlib/Topology/Algebra/UniformMulAction.lean [hunk 4]
```diff
@@ -153,6 +155,30 @@ theorem uniformContinuous_div_const' {R : Type*} [DivisionRing R] [UniformSpace
 
 end Ring
 
+section Unit
+
+variable {M X}
+
+open scoped Pointwise in
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/UniformMulAction.lean:162]: How about we just open it for the whole section instead?
```suggestion
open scoped Pointwise

```

File: Mathlib/Topology/Algebra/UniformMulAction.lean [hunk 5]
```diff
@@ -153,6 +155,30 @@ theorem uniformContinuous_div_const' {R : Type*} [DivisionRing R] [UniformSpace
...
+theorem IsUnit.smul_uniformity [Monoid M] [MulAction M X] [UniformContinuousConstSMul M X] {c : M}
+    (hc : IsUnit c) : c • 𝓤 X = 𝓤 X :=
+  let ⟨d, hcd⟩ := hc.exists_right_inv
+  have cU : c • 𝓤 X ≤ 𝓤 X := uniformContinuous_const_smul c
+  have dU : d • 𝓤 X ≤ 𝓤 X := uniformContinuous_const_smul d
+  le_antisymm cU <| by simpa [smul_smul, hcd] using Filter.smul_filter_le_smul_filter (a := c) dU
+
+open scoped Pointwise in
+theorem smul_uniformity [Group M] [MulAction M X] [UniformContinuousConstSMul M X] (c : M) :
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/UniformMulAction.lean:171]:
```suggestion
@[to_additive (attr := simp)]
theorem smul_uniformity [Group M] [MulAction M X] [UniformContinuousConstSMul M X] (c : M) :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

**Comment by grunweg** [comment]
Hi @ADedecker, coming here for PR triage, I see that your PR has been delegated without recent activity. I think it would be nice for it to hit mathlib. Would you like some help with that?

**Comment by ADedecker** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26152
